US07662974B2
3 mL of THF and 0.17 g (1.25 mmol, 8 eq) of zinc chloride were added to 0.095 g (2.51 mmol, 8 eq) of sodium borohydride. The mixture was stirred at 25° C. for 10 minutes. 0.2 g (0.31 mmol) of isopropyl (3S)-3-hydroxy-3-{6-[(methylamino)carbonyl]-2-naphthyl}-3-(1-trityl-1H-imidazol-4-yl)propanoate was added. The mixture was stirred at 40° C. for 31 hours. After cooled to 25° C., 3 droplets of water was added dropwise, 11 mL of water, 1 mL of an aqueous saturated ammonium chloride solution and 12 mL of ethyl acetate were added, and the layers were separated. The organic layer was washed successively with a mixed solution of 1 mL of an aqueous saturated ammonium chloride solution and 8 mL of water, and 8 mL of water 2 times. After concentrated under reduced pressure, the concentration residue was loosened with 4 mL of water, and crystals were filtered. Vacuum drying (40° C.) to a constant weight afforded 0.15 g of 6-[1,3-dihydroxyl-1-(1-trityl-1H-imidazol-4-yl)propyl]-N-methyl-2-naphthamide (yield 76%).

reactant | THF | 3 mL | C1CCOC1 | C4H8O
reactant | sodium borohydride | 2.51 mmol, 0.095 g, 8 eq | [BH4-].[Na+]
reactant | isopropyl (3S)-3-hydroxy-3-{6-[(methylamino)carbonyl]-2-naphthyl}-3-(1-trityl-1H-imidazol-4-yl)propanoate | 0.31 mmol, 0.2 g | O[C@](CC(=O)OC(C)C)(C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC2=CC=C(C=C2C=C1)C(=O)NC | C40H37N3O4
reactant | ammonium chloride | 1 mL | [Cl-].[NH4+]
catalyst | zinc chloride | 1.25 mmol, 0.17 g, 8 eq | [Cl-].[Zn+2].[Cl-]
solvent | ethyl acetate | 12 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 11 mL | O | H2O
product | 6-[1,3-dihydroxyl-1-(1-trityl-1H-imidazol-4-yl)propyl]-N-methyl-2-naphthamide | 0.15 g, yield 76% | OC(CCO)(C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=1C=C2C=CC(=CC2=CC1)C(=O)NC | C37H33N3O3
